US07465795B2
4-amino-8-(2,5-dimethylphenyl)-N-propyl-cinnoline-3-carboxamide
Using method B, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (250 mg, 0.702 mmol) and 2,5-dimethylphenylboronic acid (150 mg, 1.00 mmol) were reacted to afford the title compound (195 mg, 83% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.55 (br, 1H), 7.87 (m, 1H), 7.75-7.64 (m, 2H), 7.23-7.07 (m, 3H), 3.44 (apparent quartet, J=7.0 Hz, 2H), 2.35 (s, 3H), 2.01 (s, 3H), 1.64 (apparent sextet, J=7.0 Hz, 2H), 0.99 (t, J=7.4 Hz, 3H) MS APCI, m/z=335 HPLC 1.98 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.702 mmol, 250 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 2,5-dimethylphenylboronic acid | 1.00 mmol, 150 mg | CC1=C(C=C(C=C1)C)B(O)O | C8H11BO2
product | 4-amino-8-(2,5-dimethylphenyl)-N-propyl-cinnoline-3-carboxamide | 195 mg, 83% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)C)C)C(=O)NCCC | C20H22N4O
